US06448242B1
Preparation of 1,3-bis[4-[(E,E)-5-(4-trifluoromethylphenyl)-2,4-pentadienoyl]-1-piperazinyl]propane dihydrochloride
Concentrated hydrochloric acid (0.040 ml; 0.48 mmol) was added to a solution of 1,3-bis[4-[(E,E)-5-(4-trifluoromethylphenyl)-2,4-pentadienoyl]-1-piperazinyl]propane (111 mg; 0.16 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. After a process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice, the resultant concentrated residue was recrystallized from ethanol-diethyl ether to obtain the title compound as a colorless crystalline powder.

reactant | hydrochloric acid | 0.48 mmol, 0.040 ml | Cl | ClH
reactant | 1,3-bis[4-[(E,E)-5-(4-trifluoromethylphenyl)-2,4-pentadienoyl]-1-piperazinyl]propane | 0.16 mmol, 111 mg | FC(C1=CC=C(C=C1)/C=C/C=C/C(=O)N1CCN(CC1)CCCN1CCN(CC1)C(\C=C\C=C\C1=CC=C(C=C1)C(F)(F)F)=O)(F)F | C35H38F6N4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-bis[4-[(E,E)-5-(4-trifluoromethylphenyl)-2,4-pentadienoyl]-1-piperazinyl]propane dihydrochloride | Cl.Cl.FC(C1=CC=C(C=C1)/C=C/C=C/C(=O)N1CCN(CC1)CCCN1CCN(CC1)C(\C=C\C=C\C1=CC=C(C=C1)C(F)(F)F)=O)(F)F | InChI=1S/C35H38F6N4O2.2ClH/c36-34(37,38)30-14-10-28(11-15-30)6-1-3-8-32(46)44-24-20-42(21-25-44)18-5-19-43-22-26-45(27-23-43)33(47)9-4-2-7-29-12-16-31(17-13-29)35(39,40)41;;/h1-4,6-17H,5,18-27H2;2*1H/b6-1+,7-2+,8-3+,9-4+;;
